US04472433
A mixture of ethyl 2-[2-nitro-3-(2-chlorophenoxy)phenyl]acetate and sodium hydroxide in water was treated in a similar manner to that of Example 5-(2) to give sodium 2-[2-nitro-3-(2-chlorophenoxy)phenyl]acetate.

reactant | ethyl 2-[2-nitro-3-(2-chlorophenoxy)phenyl]acetate | [N+](=O)([O-])C1=C(C=CC=C1OC1=C(C=CC=C1)Cl)CC(=O)OCC | C16H14ClNO5
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | sodium 2-[2-nitro-3-(2-chlorophenoxy)phenyl]acetate | [N+](=O)([O-])C1=C(C=CC=C1OC1=C(C=CC=C1)Cl)CC(=O)[O-].[Na+] | InChI=1S/C14H10ClNO5.Na/c15-10-5-1-2-6-11(10)21-12-7-3-4-9(8-13(17)18)14(12)16(19)20;/h1-7H,8H2,(H,17,18);/q;+1/p-1
